US07160888B2
Synthesis of 7-[4-(4-Chroman-8-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one
A mixture of 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (300 mg, 1.29 mmol) and 1-chroman-8-yl-piperazine bishydrochloride (395 mg, 1.36 mmol) were suspended in DCE (8 mL)/DMF (1 mL) and Et3N (0.54 mL, 3.88 mmol) was added. After about 10 min, NaBH(OAc)3 (356 mg, 1.68 mmol) was added and the reaction was stirred at room temperature for 2 h. The reaction was quenched with saturated NaHCO3 and extracted with EtOAc. The organic layer was washed with saturated NaHCO3 and brine, dried over Na2SO4 and concentrated. Purification by liquid chromatography (5% MeOH/CH2Cl2 with 0.5% NH4OH) gave the title compound as a white foam (364 mg, 0.838 mmol, 65%). The foam was dissolved in THF/Et2O and 1 N HCl in Et2O (0.84 mL) was added. The resulting precipitate was collected by filtration, washed with Et2O and dried to give a white solid (368 mg). MS: APCI: M+1: 435.2 (Exact mass: 434.23).

reactant | 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 1.29 mmol, 300 mg | O=C1C=CC=2C=CC(=NC2N1)OCCCC=O | C12H12N2O3
reactant | 1-chroman-8-yl-piperazine bishydrochloride | 1.36 mmol, 395 mg | Cl.Cl.O1CCCC2=CC=CC(=C12)N1CCNCC1
reactant | Et3N | 3.88 mmol, 0.54 mL | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 1.68 mmol, 356 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 8 mL | ClCCCl | C2H4Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-[4-(4-Chroman-8-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one | 0.838 mmol, 364 mg, 65% | O1CCCC2=CC=CC(=C12)N1CCN(CC1)CCCCOC1=CC=C2C=CC(NC2=N1)=O | C25H30N4O3
